US06569851B1
To a solution of benzoyl chloride (0.123 moles) (Aldrich) in 600 mL of CH2Cl2 was added 2.0 eq. of phenethylamine (Aldrich) dropwise. The reaction mixture was stirred at room temperature for 3 hours and then poured into a separatory and extracted with CH2Cl2. The organic extracts were washed with water and 1N HCl, and then dried over Na2SO4, filtered and concentrated to give N-phenethyl benzamide.

reactant | benzoyl chloride | 0.123 moles | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | phenethylamine | 2.0 eq. | C(CC1=CC=CC=C1)N | C8H11N
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | N-phenethyl benzamide | C(CC1=CC=CC=C1)NC(C1=CC=CC=C1)=O | C15H15NO
